US04000198
The compound 2,6,6-trimethylcyclohexen-1,3-dione (43.6 g) was added to a mixture of benzene (250 ml), isobutanol (50 ml) and PTSA (500 mg) and heated under reflux for 3 hr in conjunction with a Dean and Stark water separator. The reaction was then cooled to room temperature, washed with aqueous sodium carbonate solution and brine and taken to dryness "in vacuo". Distillation of residue through a 6 inch vacuum jacketed vigreaux column yielded pure 2,6,6-trimethyl-3-isobutoxycyclohex-2-en-1 one (54.6 g) bp 104°-107°.

reactant | 2,6,6-trimethylcyclohexen-1,3-dione | 43.6 g | CC1C(C(C=CC1=O)(C)C)=O | C9H12O2
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
reactant | isobutanol | 50 ml | C(C(C)C)O | C4H10O
reactant | PTSA | 500 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | water | O | H2O
product | 2,6,6-trimethyl-3-isobutoxycyclohex-2-en-1 one | 54.6 g | CC=1C(C(CCC1OCC(C)C)(C)C)=O | C13H22O2
